US05672724
2.1 Synthesis of 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride
Combine 5-[(dimethylamino)methyl]-furfuryl alcohol hydrochloride (201 g, 1.05 mol) and acetonitrile (500 mL). Add dropwise, thionyl chloride (119 g, 1.0 mol) at such a rate that the temperature of the reaction is maintained at about 30° C. to 35° C. After the addition of thionyl chloride is complete, add methanesulfonic acid (144 g, 1.5 mol) while removing sulfur dioxide and acetonitrile by distillation. Stop the distillation when about 250 mL of distillate has been collected to give the title compound as a solution.

reactant | 5-[(dimethylamino)methyl]-furfuryl alcohol hydrochloride | 1.05 mol, 201 g | Cl.CN(C)CC1=CC=C(CO)O1
reactant | thionyl chloride | 1.0 mol, 119 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanesulfonic acid | 1.5 mol, 144 g | CS(=O)(=O)O | CH4O3S
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride | Cl.CN(C)CC1=CC=C(O1)CCl | InChI=1S/C8H12ClNO.ClH/c1-10(2)6-8-4-3-7(5-9)11-8;/h3-4H,5-6H2,1-2H3;1H
